US08633235B2
Step D. N-{3-amino-4-[(cyclohexylmethyl)amino]phenyl}acetamide
The above crude product N-{4-[(cyclohexylmethyl)amino]-3-nitrophenyl}acetamide (6.60 g) was hydrogenated in ethyl acetate (300 mL) catalyzed by 10% Pd/C (0.5 g) at 20-30 psi H2 in Parr shaker for 4.5 h at room temperature. After filtration through celite and concentration, 5.08 g (97%) of a purple solid was obtained. which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): δ 1.00 (m, 2H), 1.24 (m, 3H), 1.59 (m, 2H), 1.72 (m, 2H), 1.84 (m, 2H), 2.13 (s, 3H), 2.91 (d, J=6.64 Hz, 2H), 3.37 (s broad, 3H), 6.56 (d, J=8.40 Hz, 1H), 6.69 (dd, J=8.30, 2.25 Hz, 1H), 6.98 (s, 1H), 7.12 (d, J=2.34 Hz, 1H). MS (ESI) (M+H)+: 262.31.

reactant | N-{4-[(cyclohexylmethyl)amino]-3-nitrophenyl}acetamide | 6.60 g | C1(CCCCC1)CNC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C15H21N3O3
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-{3-amino-4-[(cyclohexylmethyl)amino]phenyl}acetamide | 5.08 g, 97% | NC=1C=C(C=CC1NCC1CCCCC1)NC(C)=O | C15H23N3O
